US04009170
In a manner similar to that of Example 4, condensation of 1-hydrazino-3,4-dihydroisoquinoline (10.0 g.) and syringaldehyde (12.5 g.) and treatment of the reaction mixture with hydrochloric acid gave a solid, which was recrystallized from N,N-dimethylformamide-ether, affording 1-[2-(3,5-dimethoxy-4-hydroxybenzylidene)hydrazino]-3,4-dihydroisoquinoline (I: X=3,5-(CH3O)2 -4-HOC6H2, X'=Y=Y'=Z=Z'=H) hydrochloride in two crops (total of 18 g., m.p. 232°-233° C.).

reactant | 1-hydrazino-3,4-dihydroisoquinoline | 10.0 g | N(N)C1=NCCC2=CC=CC=C12 | C9H11N3
reactant | syringaldehyde | 12.5 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | hydrochloric acid | Cl | ClH
product | 1-[2-(3,5-dimethoxy-4-hydroxybenzylidene)hydrazino]-3,4-dihydroisoquinoline | COC=1C=C(C=NNC2=NCCC3=CC=CC=C23)C=C(C1O)OC | C18H19N3O3
